US05670505
A mixture of (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (5.20 g), ammonium formate (1.50 g) and 10% Pd charcoal (0.52 g) in ethanol (50 ml) was refluxed for 7.5 hours under nitrogen atmosphere. The reaction mixture was cooled to room temperature and filtered through Celite pad. The filtrate was concentrated under reduced pressure and the residue was purified on a silica gel column eluting with a mixture of dichloromethane and methanol (20:1) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (2.67 g, 61.5%) as a syrup.

reactant | (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 5.20 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C29H25F6N3O
reactant | ammonium formate | 1.50 g | C(=O)[O-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 2.67 g, 61.5% | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
